### ISSUE TITLE
Proof obligation for `Lift.graph ` in `src/Bluebell/ProbabilityTheory/Coupling.lean`

### ISSUE THREAD

**Issue by alexanderlhicks** [Verified-zkEVM/iris-lean#31]
A proof in `src/Bluebell/ProbabilityTheory/Coupling.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/iris-lean/blob/master/src/Bluebell/ProbabilityTheory/Coupling.lean#L198)

**Code Snippet:**
```lean
theorem Lift.graph (p : PMF α) (f : α → β) :
    Lift p {x : α × β | x.2 = f x.1} (p.map f) := by
  -- Use the image of `p` via pairing `(a, f a)` as a coupling witness.
  -- Details deferred.
  refine ⟨p.map (fun a => (a, f a)), ?_, ?_⟩
  · constructor <;> sorry
```
